US04374139
To a mixture of 1.7 g, (-)-1-(morphinan-3-yl)ethanone, 1.5 g of potassium carbonate and 40 ml dimethylformamide, was added 1.2 g of cyclobutylmethyl chloride. After the mixture had been heated at 100°-110° for 16 hours it was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure and the residue was dissolved in 120 ml of ether. The ether solution was washed with water (2×20 ml), dried over magnesium sulfate and removal of the solvent gave 1.6 g (76%) of crude (-)-3-acetyl-N-cyclobutylmethylmorphinan. For analysis, a sample of this compound was distilled, bp 200°-210° (0.05 mm), [α]25D-80.64° (c 1.03, MeOH).

reactant | (-)-1-(morphinan-3-yl)ethanone | C1=CC(=CC=2[C@@]34CCCC[C@H]3[C@@H](CC12)NCC4)C(C)=O | C18H23NO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclobutylmethyl chloride | 1.2 g | C1(CCC1)CCl | C5H9Cl
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (-)-3-acetyl-N-cyclobutylmethylmorphinan | 1.6 g, 76% | C(C)(=O)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CC3CCC3 | C23H31NO
